US06320050B1
A solution of triphenylphosphine (279 mg, 1.06 mmol) in methylene chloride (5 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (189 mg, 1.06 mmol). The reaction mixture was stirred at 0° C. for 20 min and then treated with 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-propionic acid (300 mg, 0.97 mmol). The resulting reaction mixture was stirred at 0° C. for 10 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-aminothiazole (213 mg, 2.13 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) to afford 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (330 mg, 87%) as a pale yellow solid: mp 178-179° C.; EI-HRMS m/e calcd for C19H24N2O3S2 (M+) 392.1228, found 392.1230.

reactant | triphenylphosphine | 1.06 mmol, 279 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.06 mmol, 189 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-propionic acid | 0.97 mmol, 300 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)CC | C16H22O4S
reactant | 2-aminothiazole | 2.13 mmol, 213 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 330 mg, 87% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)CC | C19H24N2O3S2
